US07482356B2
Preparation of 2-[(2-chlorophenyl)-hydroxy-methyl]-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (22):
To a cold (−40° C.) suspension of 2-iodo-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 21, (0.40 g, 1.07 mmol) in THF (3 mL) is added dropwise isopropyl-magnesium chloride (0.59 mL of a 2M solution in THF, 1.18 mmol). After stirring for 30 min at −40° C., a solution of 2-chlorobenzaldehyde (0.16 mL, 1.40 mmol) is added dropwise. The reaction mixture is allowed to warm to 0° C. over 1 h period. The mixture is quenched by pouring into aqueous saturated NH4Cl. The aqueous phase is extracted three times with EtOAc and the combined organic phases are dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified over silica (10% MeOH/chloroform) to afford 240 mg (58% yield) of desired product. 1H NMR (300 MHz, CDCl3) δ 8.56 (d, J=5.1 Hz, 1H), 7.78 (dd, J=7.2, 1.8 Hz, 1H), 7.34-7.18 (m, 2H), 7.01 (d, J=5.1 Hz, 1H), 6.21 (s, 1H), 4.20-4.01 (m, 5H), 2.80-2.70 (m, 2H), 2.58 (s, 3H); ESI+ MS: m/z (rel intensity) 371.1 (100, M++H).

reactant | 2-iodo-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | IC1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)SC | C11H11IN4OS
reactant | isopropyl-magnesium chloride | C(C)(C)[Mg]Cl
reactant | 2-chlorobenzaldehyde | 1.40 mmol, 0.16 mL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-[(2-chlorophenyl)-hydroxy-methyl]-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 240 mg, 58% yield | ClC1=C(C=CC=C1)C(C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)SC)O | C18H17ClN4O2S
